Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
Total abdominal hysterectomy, bilateral salpingo-oophorectomy, 
trach evaluation

 
History of Present Illness:
This is a ___ gravida 2, para 2 (twins)/3 living 
children. Her last menstrual period was in ___.  The patient 
and her daughter presented late for today's visit due to 
inclement weather conditions.  She is accompanied by her 
daughter who is her caregiver.  
.
The patient responds to questions, however, is limited with her 
ability to discuss her history.  Her daughter brought a folder 
outlining events from ___.  During that time, patient had a 
hemorrhagic stroke  which resulted in a subarachnoid hemorrhage 
secondary to an aneurysm. At that time she was treated with a 
right craniotomy and clipping of her middle cerebral artery. 
This was done at ___ and records were provided. 
She has left hemiparesis and a trach and a PEG for her 
nutrition.
.
Please note, Ms. ___ was evaluated in ___ by Dr. ___ 
___ who was a GYN oncologist working here at the ___ 
___.  She had been transported from 
___ with heavy vaginal bleeding.  At ___ 
___, her hematocrit according to documentation in her 
medical records had gone as low as 7.6%.  She was admitted to 
the intensive care unit given 7 units of packed red cells.  She 
was then transported to
the ___.  On presentation at 
her hematocrit was 28%.  Of note, on clinical exam, she had a 
pelvic abdominal mass that was approximately 4 fingerbreadths 
above the umbilicus.  She has been scheduled for surgery on 
___ for total abdominal hysterectomy bilateral 
salpingo-oophorectomy.  
.
This surgery was postponed secondary to need for workup of her 
hematologic issues.  It is now ___ years later the patient and 
daughter are requesting that surgery at this time. The patient 
had an ultrasound done on ___ at ___ that 
revealed a uterine fibroid which measured 19 x 12 x 18 cm that 
has replaced identifiable uterus.  No endometrium could be 
identified.  There is a question whether the left ovary 
visualized that was measured at 4 x 3 x 4.4 cm with actual 
ovary. This is also related to the heterogenous multiple 
fibroids and measurement may have been exophytic portion of a 
fibroid.  Not certain whether either ovary was seen.  There was 
no ascites. 
 
Past Medical History:
OB/GYN HISTORY:  Menarche at 13.  Menopause ___, two 
pregnancies, both spontaneous vaginal deliveries, first 
pregnancy termed infant, second pregnancy spontaneous vaginal 
delivery of twins at approximately 32 weeks.  She has no history 
of abnormal Pap smears or sexually transmitted infections.
.
PAST MEDICAL HISTORY:  Hemorrhagic stroke, aneurysm, left-sided 
hemiplegia, seizure disorder, hypertension, 
hypercholesterolemia, history of DVT/pulmonary embolism, 
depression, anxiety.
.
ALLERGIES:  No known drug allergies.
.
OPERATIVE HISTORY:  ___ right craniotomy status post clipping 
of right middle cerebral artery. A trach and PEG placement, left 
wrist schwannoma removed.
 
Social History:
___
Family History:
Negative for any female cancers.
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, trach and PEG tubes in place
CV: RRR
Resp: no acute respiratory distress, able to speak with trach in 
place
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 03:30PM BLOOD Type-ART Temp-36.1 Rates-/14 FiO2-98 
pO2-122* pCO2-51* pH-7.38 calTCO2-31* Base XS-4 AADO2-530 REQ 
O2-88 Intubat-NOT INTUBA
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, and trach evaluation for symptomatic 
fibroid uterus. Please see the operative report for full 
details.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol.
.
On post-operative day 1, nutrition was consulted regarding her 
tubefeeds and she was advanced to goal without difficulty. She 
was transitioned to oral oxycodone, ibuprofen, and 
acetaminophen. On post-operative day 2, her urine output was 
adequate so her foley was removed and she voided spontaneously. 
On post-operative day 3, she had several episodes of urinary 
incontinence, and urinalysis was consistent with a urinary tract 
infection. She is treated with Bactrim, to be continued for 3 
days.
.
By post-operative day 4, she was able to breath and speak with 
her trach tube, tolerating tubefeeds, voiding spontaneously, at 
baseline mobility, and pain was controlled with medications 
through her PEG tube. She was then discharged home in stable 
condition with ___ for staple removal and outpatient follow-up 
scheduled.
 
Medications on Admission:
Albuterol, Xanax 0.25 mg BID PRN, amlodipine 10mg daily, 
atorvastation 20mg daily, citalopram 20mg daily, depakote 250mg 
TID, labetolol 300mg TID, Keppra 750mg BID, methimazole 5mg 
daily, omeprazole 20mg daily
 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH TID 
2. Amlodipine 10 mg NG DAILY 
3. Citalopram 20 mg NG DAILY 
4. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 100 mg by mouth twice a day 
Refills:*2
5. Labetalol 300 mg PO TID 
6. LeVETiracetam Oral Solution 750 mg NG BID 
7. Methimazole 5 mg NG DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
do not take more than 4000mg total per day 
RX *acetaminophen 650 mg/20.3 mL 650 mg by mouth every six (6) 
hours Refills:*1
10. Valproic Acid ___ mg NG Q8H 
11. OxycoDONE Liquid 5 mg PO/NG Q4H:PRN pain 
do not drive while taking this medication 
RX *oxycodone 5 mg/5 mL 5 mg by mouth every four (4) hours 
Refills:*0
12. Sulfameth/Trimethoprim DS 1 TAB NG Q12H Duration: 3 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*5 Tablet Refills:*0
13. Ibuprofen 400 mg PO Q8H pain 
take with food 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. You will need to take the oral 
antibiotic (Bactrim) for your urinary tract infection for 3 days 
(___). Please call Dr. ___ office with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may resume your regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have staples, they will be removed at your 
postoperative appointment.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___